***********************************************************
*
* PBSS4140T
*
* Nexperia
*
* Low VCEsat NPN (BISS) Transistor
* Ic   = 2 A
* Vceo = 40 V 
* hFE  = 300 - 900 @ 5V/500mA 
* 
*
* 
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
*  
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* Extraction date (week/year): 18/2001
* Spicemodel does not include temperature dependency
*
**********************************************************
*#
*
.SUBCKT PBSS4140T 1 2 3
Q1 1 2 3 PBSS4140T
D1 2 1 DIODE 
*
* The diode does not reflect a 
* physical device but improves 
* only modeling in the reverse
* mode of operation.
*
.MODEL PBSS4140T NPN 
+ IS = 1.933E-13 
+ NF = 0.9751 
+ ISE = 5.906E-16 
+ NE = 1.2 
+ BF = 441.7 
+ IKF = 5.05 
+ VAF = 85 
+ NR = 0.9739 
+ ISC = 1E-32 
+ NC = 2 
+ BR = 81 
+ IKR = 0.5 
+ VAR = 12 
+ RB = 80 
+ IRB = 3E-05 
+ RBM = 0.6 
+ RE = 0.129 
+ RC = 0.14 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.021E-10 
+ VJE = 0.5499 
+ MJE = 0.3105 
+ TF = 4E-10 
+ XTF = 9 
+ VTF = 3 
+ ITF = 1.5 
+ PTF = 0 
+ CJC = 2.134E-11 
+ VJC = 0.6106 
+ MJC = 0.4466 
+ XCJC = 1 
+ TR = 2.1E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.9485 
.MODEL DIODE D 
+ IS = 5E-15 
+ N = 1 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1000 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
